US06608085B1
(2S)-(1-tert-Butoxycarbonyl-2-pyrrolidinyl)2,8-bis(trifluoromethyl)quinolin-4-yl Methanone
This was prepared from 4-bromo-2,8-bis(trifluoromethyl)quinoline by the method of example 31 using (S)-N-tert-butoxycarbonylproline methyl ester in place of N-diphenylmethyl-3-azetidinone and the product (1.32 g, 29%) isolated as a cream solid: IR νmax (Nujol)/cm−1 2979, 2883, 1748, 1698, 1401, 1368, 1312, 1160 and 1110; NMR δH (400 CDCl3) (mixture of 2 rotamers) 1.41 and 1.45 (9H, 2×s), 1.79-2.13 (3H, m), 2.11-2.31 (1H, m), 3.32-3.70 (2H, m), 5.09 and 5.16 (1H, 2×dd, J 8.8, 4.3 and J 9.0, 5.5 Hz), 7.78-7.83 (1H, m), 8.03 and 8.04 (1H, 2×s), 8.18-8.29 (1H, m), 8.41 and 8.51 (1H, 2×d, J 8.5 and J 8.5 Hz).

reactant | 4-bromo-2,8-bis(trifluoromethyl)quinoline | BrC1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C11H4BrF6N
reactant | (S)-N-tert-butoxycarbonylproline methyl ester | COC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C11H19NO4
product | (2S)-(1-tert-Butoxycarbonyl-2-pyrrolidinyl)2,8-bis(trifluoromethyl)quinolin-4-yl Methanone | 1.32 g, 29% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C21H20F6N2O3
